US05654326
A mixture of 521 mg (1.3 mmol) of dl-2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]propanoic acid methyl ester and 10 mL of 1N NaOH in 30 mL of methanol was heated to maintain reflux for 0.17 hours, cooled to room temperature and stirred for 0.5 hour. The mixture was concentrated at reduced pressure and the residue taken up in EtOAc/water. The aqueous layer was separated, made acidic to pH 2-3 with 1N HCl and extracted with EtOAc. The EtOAc solution was concentrated at reduced pressure and the residue stirred with a EtOAc-ether mixture. The insoluble material was filtered to give 246 mg (50% yield) of dl-2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]propanoic acid, mp, 201°-204° C.

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]propanoic acid methyl ester | COC(C(C)OC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)C)C(C(=O)N)=O)=O | C22H22N2O5
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]propanoic acid | 50% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OC(C(=O)O)C)CC1=CC=CC=C1)C)=O | C21H20N2O5
